US04272536
Preparation of N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-cyclohexylaminoacetamide hydrochloride
A solution of 1.20 g (4.96 millimoles) of N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-chloroacetamide and 0.49 g (4.96 millimoles) of cyclohexylamine in ethanol was mixed with 5 ml of an aqueous solution containing 0.42 g (4.96 millimoles) of sodium hydrogencarbonate and 8.2 mg (0.49 millimole) of potassium iodide, and the mixture was refluxed, under agitation, for 15 hours. The post treatment was carried out in the same manner as described in section (B) of Example 1 to obtain 1.01 g (the yield being 59.8%) of white crystals of the intended compound having a melting point of 192°-195° C. (recrystallized from methanol-acetone).

reactant | N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-chloroacetamide | 4.96 millimoles, 1.20 g | C12(C3CCC(C(CCC1)C2)C3)NC(CCl)=O | C13H20ClNO
reactant | cyclohexylamine | 4.96 millimoles, 0.49 g | C1(CCCCC1)N | C6H13N
reactant | sodium hydrogencarbonate | 4.96 millimoles, 0.42 g | C(O)([O-])=O.[Na+]
reactant | potassium iodide | 0.49 millimole, 8.2 mg | [I-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-cyclohexylaminoacetamide hydrochloride | Cl.C12(C3CCC(C(CCC1)C2)C3)NC(CNC3CCCCC3)=O | InChI=1S/C19H32N2O.ClH/c22-18(13-20-17-6-2-1-3-7-17)21-19-10-4-5-15(12-19)14-8-9-16(19)11-14;/h14-17,20H,1-13H2,(H,21,22);1H
